US04022832
2-{[2-Aminoacetamido-5-chloro-α-(2-fluorophenyl)benzylidene]amino}ethanol
To a solution of 4.5g of N,N'-dicyclohexylcarbodiimide in 100ml of dimethylformamide is added a solution of 2.2g of glycine hydrochloride in 2.2ml of water in a period of about 30 seconds under stirring and ice-cooling. Immediately a solution of 3.2g of 2-{[2-amino-5-chloro-α-(2-fluorophenyl)benzylidene]amino}ethanol in 10ml of tetrahydrofuran is added dropwise to the above solution and the mixture is stirred for further 3 hours. After completion of the reaction, the reaction mixture is treated by the same manner as described in the Example 1, yielding 1.7g of the desired product melting at 128°-132° C.

reactant | N,N'-dicyclohexylcarbodiimide | 4.5g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | glycine hydrochloride | 2.2g | Cl.NCC(=O)O
reactant | 2-{[2-amino-5-chloro-α-(2-fluorophenyl)benzylidene]amino}ethanol | 3.2g | NC1=C(C(C2=C(C=CC=C2)F)=NCCO)C=C(C=C1)Cl | C15H14ClFN2O
solvent | dimethylformamide | 100ml | CN(C=O)C | C3H7NO
solvent | water | 2.2ml | O | H2O
solvent | tetrahydrofuran | 10ml | O1CCCC1 | C4H8O
product | 2-{[2-Aminoacetamido-5-chloro-α-(2-fluorophenyl)benzylidene]amino}ethanol | 1.7g | NCC(=O)NC1=C(C(C2=C(C=CC=C2)F)=NCCO)C=C(C=C1)Cl | C17H17ClFN3O2
